US08497376B2
a) 1,1,2,2,3,3,4,4,4-Nonafluoro-butane-1-sulfonic acid1,4,4,7-tetramethyl-3,5,11-trioxa-tricyclo[5.3.1.02,6]undec-8-en-9-yl ester
A solution of 1,4,4,7-tetramethyl-3,5,11-trioxa-tricyclo[5.3.1.02,6]undecan-9-one (Bulletin of the Chemical Society of Japan (1983), 56(9), 2680-99, 386 mg, 1.71 mmol) in THF (10 mL) was cooled to −78° C. under Ar and treated with lithium diisopropylamide (LDA) (1.00 mL of 2M in heptane/THF/ethylbenzene, 2 mmol). The resulting mixture was stirred at −78° C. for 2 h and treated dropwise with nonafluoro-1-butanesulfonylfluoride (0.60 mL, 3.4 mmol). The reaction mixture was allowed to warm to RT and stirred overnight and diluted with water (10 mL). The product was extracted with ether (4×10 mL). The organic layers were combined, dried (Na2SO4) and the product was purified on silica gel (0-2% EtOAc/hexane) to give the title compound (546 mg, 63%). 1H-NMR (CDCl3; 400 MHz): δ 5.78 (br s, 1H), 4.37 (d, 1H, J=5.5 Hz), 4.28 (d, 1H, J=5.5 Hz), 2.52 (dd, 1H, J=17.6, 2.0 Hz), 2.04 (d, 1H, J=17.6, 1.4 Hz), 1.43 (s, 3H), 1.38 (s, 3H), 1.32 (s, 3H), 1.25 (s, 3H).

reactant | 1,4,4,7-tetramethyl-3,5,11-trioxa-tricyclo[5.3.1.02,6]undecan-9-one | CC12C3OC(OC3C(CC(C1)=O)(O2)C)(C)C | C12H18O4
reactant | lithium diisopropylamide | 2 mmol, 2M, 1.00 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | nonafluoro-1-butanesulfonylfluoride | 3.4 mmol, 0.60 mL | FC(C(C(S(=O)(=O)F)(F)F)(F)F)(C(F)(F)F)F | C4F10O2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 1,1,2,2,3,3,4,4,4-Nonafluoro-butane-1-sulfonic acid1,4,4,7-tetramethyl-3,5,11-trioxa-tricyclo[5.3.1.02,6]undec-8-en-9-yl ester | 546 mg, 63% | CC12C3OC(OC3C(C=C(C1)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(O2)C)(C)C | C16H17F9O6S
